US07576072B2
Step B: Preparation of 6,7-dichloro-5-methylpyrazolo[1,5-a]pyrimidine.
Phosphorous oxychloride (excess) is added to 6-chloro-5-methylpyrazolo[1,5-a]pyrimidin-7-ol (1.00 equivalent) and heated to 80° C. After 2 hours, the reaction mixture is concentrated under reduced pressure. The resulting residue is poured onto ice and, carefully neutralized with saturated NaHCO3 (pH 8), and diluted with EtOAc. After stirring for 17 hours, the organic layer was separated and the aqueous layer was re-extracted with EtOAc, repeatedly. The combined organic extracts are dried (MgSO4) and concentrated. The product is purified by flash chromatography as necessary.

reactant | Phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-chloro-5-methylpyrazolo[1,5-a]pyrimidin-7-ol | 1.00 equivalent | ClC=1C(=NC=2N(C1O)N=CC2)C | C7H6ClN3O
product | 6,7-dichloro-5-methylpyrazolo[1,5-a]pyrimidine | ClC=1C(=NC=2N(C1Cl)N=CC2)C | C7H5Cl2N3
